US08080569B2
6-(4-Fluoro-phenyl)-3-methyl-imidazo[2,1-b]thiazole-2-carboxylic acid ethyl ester
2-Bromo-1-(4-fluoro-phenyl)-ethanone (200 mg, 0.92 mmol) and 2-amino-4-methyl-thiazole-5-carboxylic acid ethyl ester (186.2 mg, 0.92 mmol) were heated in 5 ml of ethanol at 95° C. for 5 hours. After addition of 80 mg of 2-bromo-1-(4-fluoro-phenyl)-ethanone and further heating for 9 hours at 95° C. the mixture was evaporated. Addition of potassium hydrogensulfate solution, extraction with ethyl acetate and purification by preparative HPLC (RP18, acetonitrile/water 0.1% TFA) yielded 81 mg (32%) of the desired product. MS (mass spectrum): M+H+=305.07.

reactant | 2-Bromo-1-(4-fluoro-phenyl)-ethanone | 0.92 mmol, 200 mg | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | 2-amino-4-methyl-thiazole-5-carboxylic acid ethyl ester | 0.92 mmol, 186.2 mg | C(C)OC(=O)C1=C(N=C(S1)N)C | C7H10N2O2S
reactant | 2-bromo-1-(4-fluoro-phenyl)-ethanone | 80 mg | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-(4-Fluoro-phenyl)-3-methyl-imidazo[2,1-b]thiazole-2-carboxylic acid ethyl ester | 81 mg, 32% | C(C)OC(=O)C1=C(N2C(S1)=NC(=C2)C2=CC=C(C=C2)F)C | C15H13FN2O2S
